Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
venlafaxine / dncb
 
Attending: ___.
 
Chief Complaint:
Ascending Colon Cancer
 
Major Surgical or Invasive Procedure:
Lap Right Colectomy ___
 
History of Present Illness:
___ w nausea, vomiting, diarrhea.  Guaiac positive
stool.  Colonoscopy was performed showed a right ascending
colon mass which was tattoo'd and biopsied.  Pathology showed
adenocarcinoma.  Imaging did not show any evidence of any
metastatic disease.  Preop CEA was normal.  She was seen in the
outpatient clinic and offered surgical resection.  Consent was
reviewed and signed with the daughter present.
 
Past Medical History:
Recent diagnosis of colon cancer, no known mets
Dementia
Iron deficiency anemia
Glaucoma
Hyperlipidemia
Irritable bowel syndrome
Anxiety
Osteoporosis
Osteoarthritis
Diverticulosis
Lactose intolerance
S/p hysterectomy/oophorectomy
H/o corneal transplant
Pseudophakia
Weight loss
Dysthymic disorder
Pancreatic cysts
Dermatofibroma
Pulmonary nodules, multiple
Knee joint pain

PSH: corneal transplant, TAH-oophrectomy

 
Social History:
___
Family History:
Sister with ovarian cancer, brother lung cancer, brother with 
___.
 
Physical Exam:
On discharge:

Afebrile. VSS
NAD. ___ lying comfortably on the stretcher.
RRR. No murmurs
Lungs CTAB. Non labored respirations
Abd: Soft NTND. Well healing laparoscopic incisions, no erythema 
or drainage
Ext: WWP
 
Pertinent Results:
___ 09:42PM   TYPE-ART PO2-157* PCO2-51* PH-7.31* TOTAL 
CO2-27 BASE XS--1 INTUBATED-NOT INTUBA COMMENTS-CPAP
___ 08:12PM   TYPE-ART PO2-144* PCO2-95* PH-7.11* TOTAL 
CO2-32* BASE XS--2 INTUBATED-NOT INTUBA
___ 08:12PM   HGB-10.6* calcHCT-32 O2 SAT-98
___ 07:15PM   GLUCOSE-124* UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-26 ANION GAP-15
___ 07:15PM   estGFR-Using this
___ 07:15PM   CALCIUM-8.5 PHOSPHATE-5.2*# MAGNESIUM-1.8
___ 07:15PM   WBC-22.6*# RBC-3.60* HGB-10.9* HCT-35.7* 
MCV-99* MCH-30.2 MCHC-30.6* RDW-13.8
___ 07:15PM   PLT COUNT-494*#
 
Brief Hospital Course:
___ admitted to the floor per routine postop. ___ with 
no change in mental status from baseline. ___ with known 
baseline dementia on donepazil which was restarted as soon as 
___ tolerating a diet. ___ seen by geriatrics team who 
recommeneded the addition of trazodone to her regimen. ___ 
remained hemodynamically stable. ___ with some known 
hypertension pre-op which continued postop. ___ started on 
IV metoprolol with effect initially and then switched to oral 
metoprolol based on the recommendations of the geriatrics team. 
___ with no need for oxygen postop and weaned off as 
tolerated. ___ noted to be ambulating without difficulty but 
with some assistance from the nurses. ___ had diet advanced 
as tolerated in concert with return of bowel function. ___ 
tolerating a house diet on discharge. ___ continued with the 
foley which she arrived on. She had a UA which demonstrated a 
UTI. ___ started on a course of cipro and then had he foley 
replaced. ___ with urine cultures pending on discharge. 
___ with no other issues during her stay and otherwise 
unremarkable hospital course. ___ seen and examined prior to 
discharge and deemed safe and stable to rehab for recovery.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bacitracin Ophthalmic Oint 1 Appl BOTH EYES QHS 
2. Citalopram 20 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Donepezil 10 mg PO HS 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QAM 
8. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
9. Simvastatin 10 mg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 
11. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 4 Days 
12. Diphenoxylate-Atropine 1 TAB PO ONCE MR1 Duration: 1 Doses 

 
Discharge Medications:
1. Bacitracin Ophthalmic Oint 1 Appl BOTH EYES QHS 
2. Citalopram 20 mg PO DAILY 
3. Donepezil 10 mg PO HS 
4. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QAM 
5. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
6. Simvastatin 10 mg PO DAILY 
7. Acetaminophen (Liquid) 975 mg PO Q6H 
8. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
9. Cyanocobalamin 1000 mcg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 
11. Metoprolol Tartrate 25 mg PO BID 
12. traZODONE 25 mg PO HS:PRN insomnia 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right colon cancer
Urinary Tract Infection
Urinary Retention
Dementia
HTN
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a Right Laparoscopic 
Colectomy for surgical management of your colon cancer. You have 
recovered from this procedure well. Samples from your colon were 
taken and this tissue has been sent to the pathology department 
for analysis. You will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact you regarding these results they will contact 
you before this time. You have tolerated a regular diet, passing 
gas, having bowel movements and your pain is controlled with 
pain medications by mouth. You are now ready to be discharged to 
a rehab facility to help you regain your strength before going 
back your assisted living home. 

You had a urinary tract infection while you were here and we 
started you on an oral antibiotic. You should take this as 
directed for 3 more days. Also, your blood pressure was high 
during your stay and you were started on an oral blood pressure 
medication called metoprolol. You should continue this until you 
follow up with your primary care physician in the next week to 
determine future high blood pressure treatment. 

Please monitor your bowel function closely. Some loose stool and 
passing of small amounts of dark, old appearing blood are 
expected however, if you notice that you are passing bright red 
blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms do not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or constipation. 

You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures and are covered with 
steri strips. Do not remove the steri-strips, these will fall 
off on their own in the next week. These incisions are healing 
well however it is important that you monitor these areas for 
signs and symptoms of infection including: increasing redness of 
the incision lines, white/green/yellow/malodorous drainage, 
increased pain at the incision, increased warmth of the skin at 
the incision, or swelling of the area. Please call the office if 
you develop any of these symptoms or a fever. You may go to the 
emergency room if your symptoms are severe. You may shower; pat 
the incisions dry with a towel, do not rub. The small incisions 
may be left open to the air.  Please no baths or swimming for 4 
weeks after surgery unless told otehrwise by Dr. ___.

You may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking Tylenol. 

Please no strenuous activity until your follow up appintment 
with Dr. ___. 

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___